US07855298B2
Preparation 15: 3-[4-(Trifluoromethyl)phenyl]-1H-pyrrole-2,5-dione
A mixture of hydrochloric acid (37%, 285 mL) and water (190 mL) was added to 4-(trifluoromethyl)aniline (150 g, 116 mL) at room temperature with vigorous stirring and the formed precipitate was allowed to stir for further 30 minutes. Temperature was reduced to 0° C. and sodium nitrite (70.6 g) in 180 mL of water was added dropwise to the stirred suspension. At the end of diazotisation, a clear yellow solution was obtained. Maleimide (180 g) in acetone (1.1 l) was added dropwise at 0° C. and then the pH of the solution was adjusted to 3-3.5 by adding sodium acetate. Copper (II) chloride (18.8 g) was added to the vigorously stirred mixture. After a few minutes a gas started to develop (conspicuous foaming). The reaction mixture was allowed to stir at 0° C. for 1 h and overnight at room temperature.

reactant | hydrochloric acid | 285 mL | Cl | ClH
reactant | 4-(trifluoromethyl)aniline | 116 mL, 150 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | sodium nitrite | 70.6 g | N(=O)[O-].[Na+]
reactant | Maleimide | 180 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | 180 mL | O | H2O
solvent | acetone | 1.1 l | CC(=O)C | C3H6O
catalyst | Copper (II) chloride | 18.8 g | [Cu](Cl)Cl
solvent | water | 190 mL | O | H2O
product | 3-[4-(Trifluoromethyl)phenyl]-1H-pyrrole-2,5-dione | FC(C1=CC=C(C=C1)C=1C(NC(C1)=O)=O)(F)F | C11H6F3NO2
